US08389553B2
A solution of CDI (107 g, 662 mmol) in dry THF (700 mL) was treated with a solution of pyridin-3-ylmethanol (72.2 g, 662 mmol) in THF (300 mL) dropwise over 10 minutes. The resulting solution was stirred for 1.25 hours and then added dropwise over 15 minutes to a water bath cooled suspension of 4-(aminomethyl)benzoic acid (100 g, 662 mmol), Et3N (92 mL, 662 mmol) and DBU (100 mL, 662 mmol) in dry THF (1400 mL). The reaction mixture was stirred at room temperature overnight. The reaction mixture was concentrated in vacuo and the residue suspended in water (2500 mL), cooled in an ice-water bath and the pH adjusted to 5 with 6 N HCl (˜300 mL). The precipitate was collected by filtration, washed with cold MeOH and dried to give 4-[({[(pyridin-3-ylmethyl)oxy]carbonyl}amino)methyl]benzoic acid as a white solid. 1H NMR (d6-DMSO, 600 MHz) δ 12.82 (br s, 1H), 8.56 (d, J=1.8 Hz, 1H), 8.51 (dd, J=4.8 and 1.8 Hz, 1H), 7.93 (t, J=6.3 Hz, 1H), 7.87 (d, J=8.4 Hz, 2H), 7.76 (t, J=8.4 Hz, 1H), 7.38 (dd, J=7.2 and 4.8 Hz, 1H), 7.33 (d, J=8.4 Hz, 2H), 5.07 (s, 2H), 4.25 (d, J=6.3 Hz, 1H).

reactant | CDI | 662 mmol, 107 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | pyridin-3-ylmethanol | 662 mmol, 72.2 g | N1=CC(=CC=C1)CO | C6H7NO
reactant | 4-(aminomethyl)benzoic acid | 662 mmol, 100 g | NCC1=CC=C(C(=O)O)C=C1 | C8H9NO2
reactant | Et3N | 662 mmol, 92 mL | CCN(CC)CC | C6H15N
reactant | DBU | 662 mmol, 100 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 700 mL | C1CCOC1 | C4H8O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 1400 mL | C1CCOC1 | C4H8O
product | 4-[({[(pyridin-3-ylmethyl)oxy]carbonyl}amino)methyl]benzoic acid | N1=CC(=CC=C1)COC(=O)NCC1=CC=C(C(=O)O)C=C1 | C15H14N2O4
